US07074800B1
To a solution of 6-fluoro-5-methoxy-2-methylindole (1.23 g, 6.86 mmol), (prepared as described for the starting material in Example 237), in methylene chloride (15 ml) cooled at −30° C. was added a solution of boron tribromide (3.78 g, 15.1 mmol) in methylene chloride (2 ml). After stirring for 90 minutes at ambient temperature, the mixture was poured onto ice and diluted with methylene chloride. The pH of the aqueous layer was adjusted to 6. The organic layer was separated, washed with water, brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography eluting with ethylacetate/petroleum ether (8/2) to give 6-fluoro-5-hydroxy-2-methylindole (905 mg, 80%).

reactant | 6-fluoro-5-methoxy-2-methylindole | 6.86 mmol, 1.23 g | FC1=C(C=C2C=C(NC2=C1)C)OC | C10H10FNO
reactant | boron tribromide | 15.1 mmol, 3.78 g | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 6-fluoro-5-hydroxy-2-methylindole | 905 mg, 80% | FC1=C(C=C2C=C(NC2=C1)C)O | C9H8FNO
